US07196103B2
(ii) 1-[(5-Chloro-pyridin-2-ylcarbamoyl)-methyl]-2-(1-isopropyl-piperidin-4-ylcarbamoyl)-1H-indole-5-carboxylic acid methyl ester
To a solution of 3 g 2-(1-Isopropyl-piperidin-4-ylcarbamoyl)-1H-indole-5-carboxylic acid methyl ester in 80 ml absolute DMF 419 mg NaH (60% in mineral oil) were added under an argon atmosphere. After stirring for 30 min. 2.179 g 2-Bromo-N-(5-chloro-pyridin-2-yl)-acetamide were added and the reaction mixture stirred for 2 h at RT. Then additional 105 mg NaH (60% in mineral oil) and 1.089 g 2-Bromo-N-(5-chloro-pyridin-2-yl)-acetamide were added and the mixture stirred for 1 h at RT. The solvent was removed in vacuo and the residue purified by chromatography on silica gel using CH2Cl2/MeOH/HOAC/H2O=9/1/0.1/0.1. The fractions containing the product were concentrated and lyophilized in a water/CH3CN mixture. Yield: 3.68 g.

reactant | 2-(1-Isopropyl-piperidin-4-ylcarbamoyl)-1H-indole-5-carboxylic acid methyl ester | 3 g | COC(=O)C=1C=C2C=C(NC2=CC1)C(NC1CCN(CC1)C(C)C)=O | C19H25N3O3
reactant | 2-Bromo-N-(5-chloro-pyridin-2-yl)-acetamide | 2.179 g | BrCC(=O)NC1=NC=C(C=C1)Cl | C7H6BrClN2O
reactant | NaH | 105 mg | [H-].[Na+]
reactant | 2-Bromo-N-(5-chloro-pyridin-2-yl)-acetamide | 1.089 g | BrCC(=O)NC1=NC=C(C=C1)Cl | C7H6BrClN2O
solvent | DMF | 80 ml, 419 mg | CN(C)C=O | C3H7NO
product | 1-[(5-Chloro-pyridin-2-ylcarbamoyl)-methyl]-2-(1-isopropyl-piperidin-4-ylcarbamoyl)-1H-indole-5-carboxylic acid methyl ester | COC(=O)C=1C=C2C=C(N(C2=CC1)CC(NC1=NC=C(C=C1)Cl)=O)C(NC1CCN(CC1)C(C)C)=O | C26H30ClN5O4
